US08487094B2
To a solution of 6-(2-azidoethyl)-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one (100 mg, 0.23 mmol) in 20:1 THF/H2O (3 mL) was added PPh3 (72 mg, 0.28 mmol). The reaction mixture was stirred at rt overnight. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel to afford 6-(2-aminoethyl)-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one (30 mg, 31%). 1H NMR (400 MHz, CDCl3): δ=2.20-2.51 (m, 2H), 2.51-2.60 (m, 2H), 2.72 (m, 1H), 3.00 (m, 1H), 3.24 (m, 1H), 3.53 (m, 1H), 6.85-6.99 (m, 2H), 7.14 (m, 1H), 7.31-7.50 (m, 8H).

reactant | 6-(2-azidoethyl)-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one | 0.23 mmol, 100 mg | N(=[N+]=[N-])CCC1(CCN(C(O1)=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C24H20F2N4O2
reactant | PPh3 | 0.28 mmol, 72 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF H2O | 3 mL | C1CCOC1.O
product | 6-(2-aminoethyl)-3-(2′,4′-difluorobiphenyl-3-yl)-6-phenyl-1,3-oxazinan-2-one | 30 mg, 31% | NCCC1(CCN(C(O1)=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)F)F)C1=CC=CC=C1 | C24H22F2N2O2
